US09034899B2
To a solution of tert-butyl 7-(6-chloropyridazin-3-yl)-4-(3,4-dichlorophenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (259 mg, 0.52 mmol) in ethanol (15 mL) was added 10% palladium on carbon (80 mg) and hydrazine hydrate (128 mL, 2.60 mmol). The reaction mixture was heated at 75° C. for 1 hour under a nitrogen atmosphere. An additional quantity of hydrazine hydrate (128 mL, 2.60 mmol) was added and the reaction mixture heated at 75° C. for 3 hours 10% palladium on carbon (80 mg) was additionally added and the heating continued for another 2 hours. The reaction mixture was filtered through a celite pad and the filtrate concentrated in vacuo. The residue was dissolved in dichloromethane (5 mL) and treated with trifluoroacetic acid (10 mL) at ambient temperature for 1 hour. After concentration in vacuo the residue was partitioned between dichloromethane (50 mL) and 2N sodium hydroxide solution. The organic layer was washed with brine then dried over sodium sulfate. Concentration in vacuo gave the crude material which was purified by flash column chromatography ((95:5 to 50:50 ethyl acetate/ethyl acetate:methanol:ammonium hydroxide, 80:18:2 v/v) to give 4-(3,4-dichlorophenyl)-7-(pyridazin-3-yl)-1,2,3,4-tetrahydroisoquinoline (144 mg, 77%): [α]D=+19.2° (0.06, methanol): 1H NMR (CDCl3, 300 MHz) δ 9.15 (dd, J=5.0 Hz, 1.5 Hz, 1H), 7.90 (d, J=1.0 Hz, 1H), 7.85 (dd, J=8.5 Hz, 1.5 Hz, 1H), 7.77 (dd, J=8.3 Hz, 2.0 Hz, 1H), 7.54 (d, J=8.5 Hz, 1H), 7.37 (d, J=8.5 Hz, 1H), 7.24 (d, J=2.0 Hz, 1H), 7.04 (d, J=8.0 Hz, 1H), 6.99 (dd, J=8.3 Hz, 2.0 Hz, 1H), 4.15-4.11 (m, 3H), 3.44 (dd, J=12.8 Hz, 5.5 Hz, 1H), 3.10 (dd, J=13.0 Hz, 6.0 Hz, 1H), 1.95 (br s, 1H); ESI MS m/z 356 [M+H]+.

reactant | tert-butyl 7-(6-chloropyridazin-3-yl)-4-(3,4-dichlorophenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.52 mmol, 259 mg | ClC1=CC=C(N=N1)C1=CC=C2C(CN(CC2=C1)C(=O)OC(C)(C)C)C1=CC(=C(C=C1)Cl)Cl | C24H22Cl3N3O2
reactant | hydrazine hydrate | 2.60 mmol, 128 mL | O.NN
reactant | hydrazine hydrate | 2.60 mmol, 128 mL | O.NN
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
product | 4-(3,4-dichlorophenyl)-7-(pyridazin-3-yl)-1,2,3,4-tetrahydroisoquinoline | 144 mg, 77% | ClC=1C=C(C=CC1Cl)C1CNCC2=CC(=CC=C12)C=1N=NC=CC1 | C19H15Cl2N3
